US06949552B2
To 8.3 g of 1-ethoxycarbonyl-4-[2-(4-fluorophenyl)-2-hydroxyethyl]piperazine hydrochloride were added 20 ml of benzene and 2.5 ml of thionyl chloride, followed by heating at 50° C. for 10 minutes. The reaction solution was concentrated under reduced pressure, 25% aqueous ammonia solution and water were poured, followed by extraction with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate and, after removal of the drying agent by filtration, the filtrate was concentrated under reduced pressure. To the residue was poured 50 ml of 4M hydrogen chloride/ethyl acetate solution, the solution was concentrated under reduced pressure, and the resulting solid was washed with ether to give 8.1 g of 1-ethoxycarbonyl-4-[2-chloro-2-(4-fluorophenyl)ethyl]-piperazine hydrochloride.

reactant | 1-ethoxycarbonyl-4-[2-(4-fluorophenyl)-2-hydroxyethyl]piperazine hydrochloride | 8.3 g | Cl.C(C)OC(=O)N1CCN(CC1)CC(O)C1=CC=C(C=C1)F
reactant | thionyl chloride | 2.5 ml | S(=O)(Cl)Cl | Cl2OS
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
product | 1-ethoxycarbonyl-4-[2-chloro-2-(4-fluorophenyl)ethyl]-piperazine hydrochloride | 8.1 g | Cl.C(C)OC(=O)N1CCN(CC1)CC(C1=CC=C(C=C1)F)Cl | InChI=1S/C15H20ClFN2O2.ClH/c1-2-21-15(20)19-9-7-18(8-10-19)11-14(16)12-3-5-13(17)6-4-12;/h3-6,14H,2,7-11H2,1H3;1H
